US05659041
To a stirring solution under argon at 0° C. of (1.50g, 10mmoles) N-chloroacetylglycine in (25 mL) ethanol was added (1.41 ml, 12 mmoles) thiobenzoic acid, followed by (7.0 mL, 3N, 21 mmoles) potassium hydroxide over 3 minutes. The reaction was allowed to heat to room temperature for 20 minutes followed by reflux under argon at 50° C. for 2 hours. The reaction was cooled to room temperature and acidified with (5 mL, 2N) hydrochloric acid. The ethanol was rotavapped off to leave N-(S-benzoylmercaptoacetyl)-glycine (m.p. 140.5°-141.5° C.), a white solid, which was washed with water, filtered, and dried in vacuo (2.46g, 98% yield).

reactant | N-chloroacetylglycine | 10mmoles, 1.50g | ClCC(=O)NCC(=O)O | C4H6ClNO3
reactant | thiobenzoic acid | 12 mmoles, 1.41 ml | C(C1=CC=CC=C1)(=S)O | C7H6OS
reactant | potassium hydroxide | 21 mmoles, 3N, 7.0 mL | [OH-].[K+]
reactant | hydrochloric acid | 2N, 5 mL | Cl | ClH
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | N-(S-benzoylmercaptoacetyl)-glycine | 98% yield | C(C1=CC=CC=C1)(=O)SCC(=O)NCC(=O)O | C11H11NO4S
